US07208471B2
Synthesis of 2-(Decylthio)acetaldehyde
Under nitrogen, 2-(decylthio)ethanol (50 g, 230 mmol), N,N-diisopropylethylamine (128 ml, 730 mmol) and methylene chloride (400 ml) were cooled to −40° C. To this solution was added, over 15 minutes, a solution of sulfur trioxide pyridine complex (116 g, 730 mmol) in dimethyl sulfoxide (600 ml) and methylene chloride (200 ml). After addition, the mixture was stirred a further 15 minutes at −40° C., then 600 ml ice water as added. The mixture was removed from the cooling bath, 1 L water was added, and the liquids partitioned. The organic phase was washed with 1 L of 1 N hydrochloric acid, and dried over magnesium sulfate. Filtration gave 600 ml liquid, which was diluted with 600 ml hexane and passed through 200 ml silica. The silica was washed with 100 ml 50% methylene chloride/hexane, then 300 ml methylene chloride. The combined organics were concentrated in vacuo to give 2-decylthio)acetaldehyde (48 g, 220 mmol) as a colorless liquid that was used without further purification.

reactant | 2-(decylthio)ethanol | 230 mmol, 50 g | C(CCCCCCCCC)SCCO | C12H26OS
reactant | N,N-diisopropylethylamine | 730 mmol, 128 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethyl sulfoxide | 600 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2-(Decylthio)acetaldehyde | 600 ml | C(CCCCCCCCC)SCC=O | C12H24OS
